US09120747B2
A. (2R,4R)-4-[(5-Acetyl-2H-pyrazole-3-carbonyl)amino]-5-biphenyl-4-yl-2-hydroxypentanoic Acid Ethyl Ester (R7=—CH2CH3)
(2R,4R)-4-Amino-5-biphenyl-4-yl-2-hydroxypentanoic acid ethyl ester (HCl salt; 500 mg, 1 mmol, 1.0 eq.), 5-acetyl-2H-pyrazole-3-carboxylic acid (330.4 mg, 2.1 mmol, 1.5 eq.), and HATU (820 mg, 2.1 mmol, 1.5 eq.) were combined in DMF (5 mL), and the resulting mixture was stirred for 2 minutes. DIPEA (750 μL) was added and the mixture was stirred for 1 hour. The mixture was dried under vacuum, and the product was purified using reverse phase chromatography (10-70% MeCN/H2O; 0.05% TFA over 70 minutes) to yield the title compound (300 mg, purity 98%) as a TFA salt. MS m/z [M+H]+ calc'd for C25H27N3O5, 450.20. found 450.2.

reactant | (2R,4R)-4-Amino-5-biphenyl-4-yl-2-hydroxypentanoic acid ethyl ester | 1 mmol, 500 mg, 1.0 eq. | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)O)=O | C19H23NO3
reactant | 5-acetyl-2H-pyrazole-3-carboxylic acid | 2.1 mmol, 330.4 mg, 1.5 eq. | C(C)(=O)C=1C=C(NN1)C(=O)O | C6H6N2O3
reactant | HATU | 2.1 mmol, 820 mg, 1.5 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 750 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (2R,4R)-4-[(5-Acetyl-2H-pyrazole-3-carbonyl)amino]-5-biphenyl-4-yl-2-hydroxypentanoic Acid Ethyl Ester | 300 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C=1NN=C(C1)C(C)=O)O)=O | C25H27N3O5
